US06620826B2
h) 2-Butyl-1-(2-methoxymethoxy-4-methoxyphenyl)-1H-imidazol-5-carboxaldehyde
To a solution of N-(2-Methoxymethoxy-4-methoxyphenyl)pentanamidine (5.10 g, 0.019 mol) in iso-propanol (50 ml) was added triethylamine (3.20 ml, 0.0230 mol), acetic acid (1.4 ml, 0.025 mol) and 2-bromo-1,3-dicarboxaldehyde propane (3.20 g, 0.0211 mol), respectively. The mixture was stirred at reflux for 5 h and then cooled to room temperature. After filtration and concentration, The crude residue was dissolved in ethyl acetate and washed with 10% sodium bicarbonate solution, water, dried (Na2SO4). After removing the solvent under reduced pressure, flash chromatography of the residue (silica gel, 25% ethyl acetate/hexane) afforded the title compound as a dark yellow oil (3.85 g, 63%).

reactant | N-(2-Methoxymethoxy-4-methoxyphenyl)pentanamidine | 0.019 mol, 5.10 g | COCOC1=C(C=CC(=C1)OC)NC(CCCC)=N | C14H22N2O3
reactant | triethylamine | 0.0230 mol, 3.20 ml | C(C)N(CC)CC | C6H15N
reactant | acetic acid | 0.025 mol, 1.4 ml | C(C)(=O)O | C2H4O2
solvent | iso-propanol | 50 ml | C(C)(C)O | C3H8O
product | 2-Butyl-1-(2-methoxymethoxy-4-methoxyphenyl)-1H-imidazol-5-carboxaldehyde | 3.85 g, 63% | C(CCC)C=1N(C(=CN1)C=O)C1=C(C=C(C=C1)OC)OCOC | C17H22N2O4
